US08106020B2
Boc-Val-OH (8.69 g, 40.0 mmol) and Gly-OBzl.HCl (8.07 g, 40.0 mmol) were dissolved in methylene chloride (100 ml), and the solution was maintained at 0° C. Triethylamine (6.13 ml, 44.0 mmol), HOBt (1-hydroxybenzotriazole, 6.74 g, 44.0 mmol), and WSC.HCl (1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, 8.44 g, 44.0 mmol) were added to the solution, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate (200 ml). The solution was washed with water (50 ml), 5% citric acid aqueous solution (50 ml×twice), saturated brine (50 ml), 5% sodium hydrogencarbonate aqueous solution (50 ml×twice), and saturated brine (50 ml). The organic layer was dried over anhydrous magnesium sulfate, then the magnesium sulfate was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to obtain white crystals of Boc-Val-Gly-OBzl (13.2 g, 36.2 mmol).

reactant | Boc-Val-OH | 40.0 mmol, 8.69 g | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | Gly-OBzl.HCl | 40.0 mmol, 8.07 g | NCC(=O)OCC1=CC=CC=C1.Cl
reactant | Triethylamine | 44.0 mmol, 6.13 ml | C(C)N(CC)CC | C6H15N
reactant | HOBt | 44.0 mmol, 6.74 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 44.0 mmol, 8.44 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Boc-Val-Gly-OBzl | 36.2 mmol, 13.2 g | N([C@@H](C(C)C)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H28N2O5
